US04096100
Preparation of 1,5-bis(n-butanesulfonyl) carbohydrazide
A mixture of 11.25 g (0.125 mole) carbohydrazide, 25 g sodium bicarbonate, 200 ml methanol and 37 g (0.25 mole) 1-butanesulfonyl chloride was heated to 60° C until evolution of CO2 ceased. The mix was cooled and water was added to precipitate the product. The initial precipitate weighed 12 g (dry). This melted with decomposition at 195°-197° C.

reactant | carbohydrazide | 0.125 mole, 11.25 g | NNC(=O)NN | CH6N4O
reactant | sodium bicarbonate | 25 g | C([O-])(O)=O.[Na+]
reactant | 1-butanesulfonyl chloride | 0.25 mole, 37 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | CO2 | C(=O)=O | CO2
solvent | water | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | 1,5-bis(n-butanesulfonyl) carbohydrazide | C(CCC)S(=O)(=O)NNC(=O)NNS(=O)(=O)CCCC | C9H22N4O5S2
